*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/3.30e-04[uF]/630[V]
* Murata P/N :GCM21A5C2J331FX01
* Property : C = 3.30e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2J331FX01 Port1 Port2
C01 Port1 N01 3.30e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 1.41e-10
R03 N02 N03 5.23e-03
C04 N03 N04 3.70e-08
R04 N03 N04 1.03e+01
L05 N04 N05 6.69e-11
R05 N04 N05 6.66e-02
C06 N05 N06 1.31e-07
L06 N05 N06 3.86e-11
R06 N05 N06 1.76e-02
C07 N06 N07 2.91e-09
L07 N06 N07 8.92e-12
R07 N06 N07 3.04e-01
C08 N07 N08 3.19e-10
L08 N07 N08 2.76e-11
R08 N07 N08 9.16e-01
C09 N08 N09 2.63e-11
L09 N08 N09 3.75e-11
R09 N08 N09 7.66e-01
C10 N09 Port2 7.76e-13
L10 N09 Port2 3.78e-10
R10 N09 Port2 5.05e+02
.ENDS GCM21A5C2J331FX01
